US07157487B2
Benzyl N-tert-butoxycarbonyl-(2S)-pyroglutamate (20.5 g, 64.2 mmol) was dissolved in THF (500 ml). Methyl lithium (a 1.04M ether solution, 61.7 ml, 64.2 mmol) was added dropwise at −78° C. The temperature of the reaction mixture was caused to rise back gradually to room temperature under stirring, and the resulting mixture was stirred for 18 hours. A saturated aqueous solution of ammonium chloride was added and the resulting mixture was concentrated under reduced pressure. The concentrate was extracted with ether. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from hexane/ethyl acetate (3/1) eluate fractions, benzyl (2S)-N-tert-butoxycarbonylamino-5-oxohexanoate (8.37 g, 39%) was obtained as a yellow oil.

reactant | Benzyl N-tert-butoxycarbonyl-(2S)-pyroglutamate | 64.2 mmol, 20.5 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1=O)C(=O)OCC1=CC=CC=C1 | C17H21NO5
reactant | Methyl lithium | C[Li]
reactant | ether | 1.04M | CCOCC | C4H10O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | benzyl (2S)-N-tert-butoxycarbonylamino-5-oxohexanoate | 8.37 g, 39% | C(C)(C)(C)OC(=O)N[C@H](C(=O)OCC1=CC=CC=C1)CCC(C)=O | C18H25NO5
